US06051712
A solution of 192.4 mg of crude tert-butyl (3RS,4RS)-4-[4-(2-amino-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate in 3 ml of methylene chloride was treated at 0° C. with 51.7 ml of triethylamine and 64.9 mg (0.462 mmol, 2.0 eq.) of benzoyl chloride and the mixture was stirred at 0° C. for 0.75 hr and at room temperature for 3 hours. The reaction mixture was poured into an ice/water mixture, made basic with saturated sodium hydrogen carbonate solution and extracted three times with ethyl acetate. The organic phases were washed once with water and once with saturated sodium chloride solution, dried over magnesium sulphate, evaporated under reduced pressure and dried in a high vacuum. The colourless oil was separated on silica gel using a 95:5 mixture of methylene chloride and acetone as the eluent. There were obtained 44.9 mg (33% of theory) of tert-butyl (3RS,4RS)-4-[4-(2-benzoylamino-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate in the form of a light yellow oil; MS: 581 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(2-amino-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 192.4 mg | NCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C29H36N2O4
reactant | triethylamine | 51.7 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.462 mmol, 64.9 mg, 2.0 eq. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (3RS,4RS)-4-[4-(2-benzoylamino-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 44.9 mg, 33% | C(C1=CC=CC=C1)(=O)NCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C36H40N2O5
